US04016267
Preparation of N4 -acetyl-N1 -(1-ethyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl) sulfanilamide
A mixture of 1.53 g. of 1-ethyl-5-methylcytosine, 2.34 g. of N-acetylsulfanilyl chloride and 10 ml. of pyridine was stirred overnight, diluted with 100 ml. of cold water, filtered with a little Hyflo to remove turbidity and acidified by addition of 19 ml. of 6N hydrochloric acid. The product was allowed to crystallize for several hours at room temperature before filtering, washing with water, and drying in a vacuum desiccator over potassium hydroxide to obtain 1.78 g. of N4 -acetyl-N1 -(1-ethyl-1,2-dihydro-5-methyl-4-pyrimidinyl)-sulfanilamide, melting at 235°-239°.

reactant | 1-ethyl-5-methylcytosine | C(C)N1C(=O)N=C(N)C(=C1)C | C7H11N3O
reactant | N-acetylsulfanilyl chloride | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N4 -acetyl-N1 -(1-ethyl-1,2-dihydro-5-methyl-4-pyrimidinyl)-sulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC2=NCN(C=C2C)CC)C=C1 | C15H20N4O3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N4 -acetyl-N1 -(1-ethyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl) sulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC2=NC(N(C=C2C)CC)=O)C=C1 | C15H18N4O4S
